US06727264B1
1-BROMO-3-(3-CHLOROPROPOXY)BENZENE:
Prepared by Procedure U and Scheme AK using 3-bromophenol and 1-bromo-3-chloropropane.

reactant | 3-bromophenol | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
product | 1-BROMO-3-(3-CHLOROPROPOXY)BENZENE | BrC1=CC(=CC=C1)OCCCCl | C9H10BrClO
